US06492368B1
4-[4-(3-aminobenzoyl)piperazine-1-carbonyl]benzamidine;
4-[4-(isobutyloxycarbonyl)piperazine-1-carbonyl]benzamidine, acetate, FAB 333.

reactant | 4-[4-(isobutyloxycarbonyl)piperazine-1-carbonyl]benzamidine | C(C(C)C)OC(=O)N1CCN(CC1)C(=O)C1=CC=C(C(=N)N)C=C1 | C17H24N4O3
reactant | acetate | C(C)(=O)[O-]
product | 4-[4-(3-aminobenzoyl)piperazine-1-carbonyl]benzamidine | NC=1C=C(C(=O)N2CCN(CC2)C(=O)C2=CC=C(C(=N)N)C=C2)C=CC1 | C19H21N5O2
